US06291464B1
To a solution of N-piperazinyl-p-fluorobenzamide hydrobromide (500 mg) in 1N aqueous solution of sodium hydroxide (5 ml) and dioxane (5 ml) was added cyclopropanecarbonyl chloride (0.3 ml) at ambient temperature, and the solution was stirred at (he same temperature for 2 hours. After removal of the solvent in vacuo, the residue was dissolved into ethyl acetate and washed with brine (×2). The organic layer was separated, dried over magnesium sulfate, and concentrated. The residue was recrystallized from 20% ethanol-water to give N-(4-cyclopropanecarbonyl-1-piperazinyl)-p-fluorobenzamide (0.20 g).

reactant | N-piperazinyl-p-fluorobenzamide hydrobromide | 500 mg | Br.N1(CCNCC1)NC(C1=CC=C(C=C1)F)=O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | cyclopropanecarbonyl chloride | 0.3 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | N-(4-cyclopropanecarbonyl-1-piperazinyl)-p-fluorobenzamide | 0.20 g | C1(CC1)C(=O)N1CCN(CC1)NC(C1=CC=C(C=C1)F)=O | C15H18FN3O2
